US05576437
Fuming sulfuric acid (180 mL) is added dropwise to 4-fluoro-2-nitrotoluene (50.21 g) under an argon atmosphere. The internal temperature of the mixture is maintained at 0°-5° C. using an ice/sodium chloride bath. A preformed (ice bath) mixture of fuming nitric acid (30 mL) and fuming sulfuric acid (90 mL) is added dropwise to the previous solution over three hours. The reaction is then allowed to warm to room temperature. After stirring at room temperature for two hours, the mixture is poured slowly into ice and the products are extracted with methylene chloride (4×500 mL). The combined extracts are dried over magnesium sulfate, filtered and rotary evaporated. The crude mixture is filtered through a short pad of silica gel, using 10% ethyl acetate/hexane as solvent, then recrystallized from ethyl acetate/hexane to afford 2,6-dinitro-4-fluorotoluene as a pale yellow solid.

reactant | 4-fluoro-2-nitrotoluene | 50.21 g | FC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | nitric acid | 30 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 90 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 180 mL | S(O)(O)(=O)=O | H2O4S
product | 2,6-dinitro-4-fluorotoluene | [N+](=O)([O-])C1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H5FN2O4
